US07767677B2
A mixture of 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid methyl ester (0.200 g, 0.502 mmol) and propane-1,2-diamine (2 mL) was heated in a sealed tube at 140° C. for 12 hours. The mixture was cooled and concentrated under high vacuum to remove excess amount of propane-1,2-diamine. The residue was purified by column chromatography to afford 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (2-aminopropyl)amide (0.188 g, 85%) as a white foam. 1H NMR (300 MHz, MeOH-d4) δ 7.92 (d, J=9.3 Hz, 1H), 7.81 (d, J=7.9 Hz, 1H), 7.78-7.61 (m, 2H), 7.50 (d, J=7.3 Hz, 1H), 7.30 (d, J=9.6 Hz, 1H), 4.00-3.82 (m, 4H), 3.72 (t, J=4.9 Hz, 2H), 3.45-3.23 (m, 5H), 1.10 (d, J=6.3 Hz, 3H). MS (ES+) m/z 437.0 (M+1).

reactant | 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid methyl ester | 0.502 mmol, 0.200 g | COC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C18H17F3N4O3
reactant | propane-1,2-diamine | 2 mL | C(C(C)N)N | C3H10N2
product | 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (2-aminopropyl)amide | 0.188 g, 85% | NC(CNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)C | C20H23F3N6O2
